US04554012
A mixture of 2.01 g of N-methyl-N-(6-methyl-2-pyridyl)thiocarbamoylchloride, 1.43 g of 4-chloro-3-methylphenol, and 1.38 g of potassium carbonate in 50 ml of methyl ethyl ketone was refluxed for 48 hours. After the reaction mixture was cooled to room temperature, it was poured into cold water and the product was extracted with benzene. The benzene solution, successively washed with water and brine, was dried over anhydrous magnesium sulfate. The residue obtained by the removal of benzene under reduced pressure was chromatographed through silica gel column using hexane-ethyl acetate (3/1, V/V) as an eluent to give 1.07 g of pure O-4-chloro-3-methylphenyl N-methyl-N-(6-methyl-2-pyridyl)thiocarbamate as solid in the yield of 35%. A part of the solid was recrystallized from benzene-hexane and crystalls having melting point of 134° to 136° C. were obtained.

reactant | N-methyl-N-(6-methyl-2-pyridyl)thiocarbamoylchloride | 2.01 g | CN(C(=S)Cl)C1=NC(=CC=C1)C | C8H9ClN2S
reactant | 4-chloro-3-methylphenol | 1.43 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | O-4-chloro-3-methylphenyl N-methyl-N-(6-methyl-2-pyridyl)thiocarbamate | 1.07 g, yield of 35% | CN(C(OC1=CC(=C(C=C1)Cl)C)=S)C1=NC(=CC=C1)C | C15H15ClN2OS
